US08258119B2
3-Amino-5-phenylthiophene-2-carbonitrile:
To a suspension of sodium sulfide (0.95 g, 12.23 mmol) in DMF (12.5 mL) was added a solution of 3-chloro-3-phenylprop-2-enenitrile (2 g, 12.23 mmol) in DMF (5 mL) at rt for 5 min and stirred the mixture at 60-70° C. for 2 h. Then chloroacetonitrile (0.77 mL, 12.23 mmol) was added dropwise to the reaction mixture and again stirred at 60-70° C. for 2 h. Then, a solution of sodium methoxide (0.66 g, 12.23 mmol) in methanol (5 mL) was added dropwise and stirring was continued for 1 h at the same temperature. The mixture was allowed to rt and poured into cold water and stirred for 15 min. The solid separated was filtered, washed with water and dried. The solid was recrystallized from hexane-chloroform to give the product as a pale brown color solid (150 mg, 8%), nip 158-160° C. 1H NMR (400 MHz, CDCl3): δ 7.52-7.54 (2H, m), 7.37-7.41 (3H, m), 6.75 (1H, s), 4.48 (2H, s); LC-MS (negative ion mode): m/z 199 (M−H)−.

reactant | sodium sulfide | 12.23 mmol, 0.95 g | [S-2].[Na+].[Na+]
reactant | 3-chloro-3-phenylprop-2-enenitrile | 12.23 mmol, 2 g | ClC(=CC#N)C1=CC=CC=C1 | C9H6ClN
reactant | chloroacetonitrile | 12.23 mmol, 0.77 mL | ClCC#N | C2H2ClN
reactant | sodium methoxide | 12.23 mmol, 0.66 g | C[O-].[Na+]
solvent | DMF | 12.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methanol | 5 mL | CO | CH4O
solvent | water | O | H2O
product | 3-Amino-5-phenylthiophene-2-carbonitrile | 150 mg, 8% | NC1=C(SC(=C1)C1=CC=CC=C1)C#N | C11H8N2S
